US09359367B2
Step 1: (R)-tert-butyl 4-(3-cyanocyclopent-2-en-1-yl)piperazine-1-carboxylate
To a stirred solution of tert-butyl piperazine-1-carboxylate (59.5 g, 320 mmol) in dimethyl formamide (400 ml) was added triethylamine (134 ml, 959 mmol) at 25° C. and stirred the reaction mixture for 10 minutes. To this was added 3-bromocyclopent-1-enecarbonitrile (55 g, 320 mmol) and the reaction mixture was stirred for 3 h. The progress of reaction was monitored by TLC. The reaction mixture was then concentrated under reduced pressure. The residue obtained was diluted with water (250 ml) and extracted with ethyl acetate (3×250 ml). The combined organic layer was dried over anhydrous sodium sulphate. The solvent in the organic layer was evaporated under reduced pressure to obtain crude product. The crude product purified by flash column chromatography over silica gel (100-200 mesh) using 40% ethyl acetated in hexane as an eluent to obtain the title compound (35 g, 126 mmol, 39.5% yield).

reactant | tert-butyl piperazine-1-carboxylate | 320 mmol, 59.5 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 959 mmol, 134 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromocyclopent-1-enecarbonitrile | 320 mmol, 55 g | BrC1C=C(CC1)C#N | C6H6BrN
solvent | dimethyl formamide | 400 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | (R)-tert-butyl 4-(3-cyanocyclopent-2-en-1-yl)piperazine-1-carboxylate | 126 mmol, 35 g, 39.5% yield | C(#N)C1=C[C@@H](CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
